US06878715B1
Sodium azide (7.11 g, 0.1 mol) was added to a solution of (S)-1-(5-methanesulfonyloxyhexyl)-3,7-dimethylxanthine (19.6 g, 54 mmol) in dimethylsulfoxide (100 ml) and stirred at 50° C. for 12 hours. The mixture was treated with water (200 ml) and extracted with ethyl acetate (3x 100 ml). The combined extracts were washed with water (125 ml), with saturated aqueous sodium chloride solution (150 ml), dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with ethyl acetate to give (R)-1-(5-azidohexyl)-3,7-dimethylxanthine (13 g).

reactant | Sodium azide | 0.1 mol, 7.11 g | [N-]=[N+]=[N-].[Na+]
reactant | (S)-1-(5-methanesulfonyloxyhexyl)-3,7-dimethylxanthine | 54 mmol, 19.6 g | CS(=O)(=O)O[C@H](CCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)C | C14H22N4O5S
reactant | water | 200 ml | O | H2O
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | (R)-1-(5-azidohexyl)-3,7-dimethylxanthine | 13 g | N(=[N+]=[N-])[C@@H](CCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)C | C13H19N7O2
